US07595345B2
C. 1-{4-[1-(4-Benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3-methyl-butan-2-one
To a 0° C. solution of 2-{4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-N-methoxy-N-methyl-acetamide (2.36 g, 4.98 mmol) in THF (50 mL) is added 2.0 M iPrMgCl (3.0 mL, 5.98 mmol). The reaction is stirred at 0° C. for 30 m, then at RT for 1 h. It is quenched with satd NH4Cl (20 mL), diluted with H2O (50 mL), extracted with EtOAc (2×100 mL), washed with 0.1 M HCl (50 mL), H2O (50 mL); MgSO4 dried, concentrated and purified to give the title compound (1.01 g, 2.21 mmol, 44%).

reactant | 2-{4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-N-methoxy-N-methyl-acetamide | 4.98 mmol, 2.36 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(=O)N(C)OC)C=C1)C)C | C30H37NO4
reactant | iPrMgCl | 5.98 mmol, 2.0 M, 3.0 mL | C(C)(C)[Mg]Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-{4-[1-(4-Benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3-methyl-butan-2-one | 2.21 mmol, 1.01 g, 44% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(C(C)C)=O)C=C1)C)C | C31H38O3
